US04994486
Step 8: [1R,8S,9aR]-1-Amino-5-hydroxy-8-phenyl-2,3,7,8,9,9a-hexahydrophenalene hydrobromide
A solution of 0.34 g (1.2 mmol) of [1R,8S,9aR] 1-amino-5-methoxy-8-phenyl-2,3,7,8,9,9a-hexahydrophenalene, from Step 7, in 9 mL of methylene chloride is treated with 4.4 mL (4.4 mmol) of a 1M solution of boron tribromide in methylene chloride, added dropwise at -78° C. The reaction is warmed to ambient temperature for 1 hour and recooled to -78° C. and the reaction is quenched with 5 mL of methanol. The reaction mixture is allowed to warm to ambient temperature and stirred for 1 hour. The solvent is removed in vacuo and 5 mL of methanol is added and the solution is concentrated to remove methyl borate by azeotropic distillation to give the title compound.

reactant | [1R,8S,9aR] 1-amino-5-methoxy-8-phenyl-2,3,7,8,9,9a-hexahydrophenalene | 1.2 mmol, 0.34 g | N[C@@H]1CCC2=CC(=CC=3C[C@H](C[C@@H]1C23)C2=CC=CC=C2)OC | C20H23NO
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 9 mL | C(Cl)Cl | CH2Cl2
product | [1R,8S,9aR]-1-Amino-5-hydroxy-8-phenyl-2,3,7,8,9,9a-hexahydrophenalene hydrobromide | Br.N[C@@H]1CCC2=CC(=CC=3C[C@H](C[C@@H]1C23)C2=CC=CC=C2)O | InChI=1S/C19H21NO.BrH/c20-18-7-6-13-9-16(21)10-15-8-14(11-17(18)19(13)15)12-4-2-1-3-5-12;/h1-5,9-10,14,17-18,21H,6-8,11,20H2;1H/t14-,17+,18-;/m1./s1
